US05972975
By analogy to Example 53, Step B, the anion of 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine was alkylated with (2-bromoethyl)benzene to give 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(3-phenylpropyl)pyridine.

reactant | 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | CC1=CC(=NC(=C1)C)N1C(=CC=C1C)C | C13H16N2
reactant | (2-bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
product | 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(3-phenylpropyl)pyridine | CC1=CC(=NC(=C1)CCCC1=CC=CC=C1)N1C(=CC=C1C)C | C21H24N2
